US07317021B2
B3. 2-(1-Chloropropyl)-3H-imidazo[4,5-b]pyridine
5.0 g of 2,3-diaminopyridine in 200 g of polyphosphoric acid are heated at 120° C. for 0.5 h. The solution is cooled to 80° C. and 5.7 ml of 2-chlorobutyric acid are added. Thereafter, the reaction mixture is heated to 130° C. for 22 h. After cooling, the polyphosphoric acid is hydrolysed with 136 ml of water. After reheating to 90° C., charcoal is added under vigorous stirring. Subsequently, the suspension is filtered through a celite pad while still hot (70° C.). The filter cake is rinsed with 100 ml of water and the pH 4 using 9 M aqueous sodium hydroxide solution. The mixture is extracted three times each with 200 ml of ethyl acetate, the combined organic phases are dried using sodium sulfate, concentrated and purified by chromatography on silica gel (eluent: toluene/ethyl acetate 1:1) to give 5.19 g of the title compound as a colorless, amorphous solid. M.p. 137° C. MS: 196.0/198.0 (MH+, 100%/32%). TLC: Rf=0.50 (dichloromethane/methanol 10:1).

reactant | 2,3-diaminopyridine | 5.0 g | NC1=NC=CC=C1N | C5H7N3
reactant | 2-chlorobutyric acid | 5.7 ml | ClC(C(=O)O)CC | C4H7ClO2
reactant | charcoal | C | CH4
solvent | water | 136 ml | O | H2O
product | 2-(1-Chloropropyl)-3H-imidazo[4,5-b]pyridine | 5.19 g | ClC(CC)C1=NC=2C(=NC=CC2)N1 | C9H10ClN3
